US07989628B2
(5-Methyl-furan-2-ylmethyl)-(5-vinyl-quinolin-2-yl)-amine
The title compound, MS: m/e=265.3 (M+H+), was prepared in accordance with the general method of example 22 from (5-bromo-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine and vinyltributyltin.

reactant | (5-bromo-quinolin-2-yl)-(5-methyl-furan-2-ylmethyl)-amine | BrC1=C2C=CC(=NC2=CC=C1)NCC=1OC(=CC1)C | C15H13BrN2O
reactant | vinyltributyltin | C(=C)[Sn](CCCC)(CCCC)CCCC
product | (5-Methyl-furan-2-ylmethyl)-(5-vinyl-quinolin-2-yl)-amine | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)C=C | C17H16N2O
